US07479502B2
N-acetyl-N′-tert-butyl-5-formyl-6-methoxy-biphenyl-3,3′-disulfonamide (100 mg, 0.21 mmol), prepared as in Reference 19, was dissolved in dichloromethane (10 mL). The solution was flushed with nitrogen for 5 minutes and then boron tribromide (1.0 mL, 1M solution in dichloromethane) was added. The mixture was stirred at room temperature for 1 hour and then concentrated under by evaporation under reduced pressure. The residue was partitioned between water and ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The residue was passed through a short silica plug with pure ethyl acetate to give N-acetyl 5-formyl-6-hydroxy-biphenyl-3,3′-disulfonamide (74 mg) as a colorless oil.

reactant | N-acetyl-N′-tert-butyl-5-formyl-6-methoxy-biphenyl-3,3′-disulfonamide | 0.21 mmol, 100 mg | C(C)(=O)NS(=O)(=O)C=1C=C(C(=C(C1)C=O)OC)C1=CC(=CC=C1)S(=O)(=O)NC(C)(C)C | C20H24N2O7S2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-acetyl 5-formyl-6-hydroxy-biphenyl-3,3′-disulfonamide | 74 mg | C(C)(=O)NS(=O)(=O)C=1C=C(C(=C(C1)C=O)O)C1=CC(=CC=C1)S(=O)(=O)N | C15H14N2O7S2
